** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/top-pll/LC_VCO_FPLL_tb.sch
**.subckt LC_VCO_FPLL_tb
V1 VDD GND 1.2
Vfref CLK_IN GND 0 pulse(0 1.2 0n 1n 1n 50n 100n)
I1 Vbias1 GND 50u
I3 VDD Vbias2 80u
xpll VDD CLK_IN CLK_OUT Vbias2 OUTn Vbias1 GND LC_VCO_FPLL
**** begin user architecture code



*****************************************************
* PLL + DSM Frequency Divider Testbench (Optimized)
*****************************************************

.option temp=27
.param VDD=1.2

* ==============================
* Include Models & Stimuli
* ==============================
.include ./IHP_4nH_Inductor.spice
.include stimuli_test.cir

* ==============================
* Simulation Options (Optimized for Speed & Stability)
* ==============================
* gear method improves stability for long oscillator runs
* reltol=1e-3 prevents the simulator from bogging down on microscopic errors
.options reltol=1e-3 abstol=1e-9 vntol=1e-6 method=gear

* ==============================
* Initial Conditions (Speed Hack)
* ==============================
* Uncomment the line below to pre-charge the loop filter to your expected
* V_tune voltage (e.g., 0.6V). This skips the massive initial frequency jump.

*.nodeset v(x1.vctrl)=0.606
*.nodeset v(x1.x1.ctrl1)=0.606
*.nodeset v(x1.x1.ctrl2)=0.606

.control
  * CRITICAL: Save ONLY essential low-frequency signals.
  * Saving 2.4GHz nodes for 100us will crash your memory.
  save xpll.vctrl xpll.up xpll.dn xpll.dsm_out clk_out clk_in vbias1 vbias2 xpll.xcp.ctrl1 xpll.xcp.ctrl2 outn xpll.outp xpll.sdata xpll.sclk xpll.en xpll.rst
  *save all


  * 20p defines the step to resolve the 2.4 GHz edges without forcing a maxstep.
  tran 10p 60u uic

  remzerovec
  write pll_sim.raw
.endc





.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerHBT.lib hbt_typ
.lib cornerRES.lib res_typ
.lib cornerCAP.lib cap_typ_stat
.include /foss/pdks/ihp-sg13g2/libs.ref/sg13g2_stdcell/spice/sg13g2_stdcell.spice
.global VDD GND


.param CP_N_L = 1u
.param CP_N_W = 3u
.param CP_P_M = 1
.param CP_P_L = 1u
.param CP_P_W = 10u
.param CP_N_M = 1


**** end user architecture code
**.ends

* expanding   symbol:  schematic/top-pll/LC_VCO_FPLL.sym # of pins=7
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/top-pll/LC_VCO_FPLL.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/top-pll/LC_VCO_FPLL.sch
.subckt LC_VCO_FPLL VDD CLK_IN CLK_OUT IbiasVCO OUTn Ibias GND
*.iopin GND
*.iopin VDD
*.ipin CLK_IN
*.ipin IbiasVCO
*.ipin Ibias
*.opin OUTn
*.opin CLK_OUT
* noconn rst
* noconn sclk
* noconn sdata
* noconn en
xcp VDD UP VCTRL DN GND Ibias CP
xpfd VDD UP CLK_IN DSM_OUT DN GND PFD
xvco VDD CLK_OUT OUTn IbiasVCO VCTRL GND LC_VCO
adut [ net1 net2 net3 net4 net5 ] [ net6 ] null dut
.model dut d_cosim simulation=./../dsm_and_freq_divider.so
A1 [ CLK_OUT ] [ net1 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A6 [ net6 ] [ DSM_OUT ] dac1
.model dac1 dac_bridge out_low=0 out_high=1.2
A7 [ en ] [ net5 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A2 [ rst ] [ net2 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A3 [ sclk ] [ net3 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
A4 [ sdata ] [ net4 ] adc1
.model adc1 adc_bridge in_low=0.76 in_high=0.76
.ends


* expanding   symbol:  CP.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/charge-pump/CP.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/charge-pump/CP.sch
.subckt CP VDD UP CTRL DN GND Ibias
*.opin CTRL
*.ipin UP
*.ipin VDD
*.ipin Ibias
*.ipin DN
*.ipin GND
XM2 Vbn Vbn net2 GND sg13_lv_nmos w=3u l=2u ng=1
XM8 net5 GND VDD VDD sg13_lv_pmos w=10u l=2u ng=1
XR2 CTRL CTRL1 sub! rsil w=0.5e-6 l=3848e-6 m=1 b=0
XR1 CTRL2 CTRL1 sub! rsil w=0.5e-6 l=3848e-6 m=1 b=0
XC3 CTRL GND cap_cmim w=41.7e-6 l=41.7e-6 m=8
XC2 CTRL2 GND cap_cmim w=55.85e-6 l=55.85e-6 m=12
XM11 Ibias Ibias net5 VDD sg13_lv_pmos w=10u l=2u ng=1
XM3 Vbn Ibias net1 VDD sg13_lv_pmos w=10u l=2u ng=1
XM4 net1 GND VDD VDD sg13_lv_pmos w=10u l=2u ng=1
XM7 net4 UP VDD VDD sg13_lv_pmos w=10u l=2u ng=1
XM9 CTRL1 Ibias net4 VDD sg13_lv_pmos w=10u l=2u ng=1
XM10 net2 VDD GND GND sg13_lv_nmos w=3u l=2u ng=1
XM1 net3 DN GND GND sg13_lv_nmos w=3u l=2u ng=1
XM5 CTRL1 Vbn net3 GND sg13_lv_nmos w=3u l=2u ng=1
.ends


* expanding   symbol:  PFD.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/phase-freq-detector/PFD.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/phase-freq-detector/PFD.sch
.subckt PFD VDD UP F_REF F_VCO DN GND
*.opin UP
*.ipin F_REF
*.ipin VDD
*.ipin GND
*.opin DN
*.ipin F_VCO
x1 net1 net2 F_REF VDD RST_N VDD GND sg13g2_dfrbp_2
x2 DN net3 F_VCO VDD RST_N VDD GND sg13g2_dfrbp_2
x3 RST_N net1 DN VDD GND sg13g2_nand2_2
x4 UP net1 VDD GND sg13g2_inv_2
.ends


* expanding   symbol:  LC_VCO.sym # of pins=6
** sym_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sym
** sch_path: /foss/designs/frac-n-pll-vco-unic_cass/schematic/lc-vco/LC_VCO.sch
.subckt LC_VCO VDD OUTp OUTn Ibias VCTRL GND
*.opin OUTp
*.opin OUTn
*.iopin VCTRL
*.iopin Ibias
*.iopin GND
*.iopin VDD
XM6 net5 Vgs GND GND sg13_lv_nmos w=70.29u l=0.5u ng=20
XM4 net1 net4 VDD VDD sg13_lv_pmos w=34.52u l=0.13u ng=10
X5M3 net4 net1 VDD VDD sg13_lv_pmos w=34.52u l=0.13u ng=10
XM2 OUTp OUTn Vx GND sg13_lv_nmos w=25.11u l=0.13u ng=8
XM1 OUTn OUTp Vx GND sg13_lv_nmos w=25.11u l=0.13u ng=8
Vpmos_p net1 net3 0
.save i(vpmos_p)
Vnmos_p net3 OUTp 0
.save i(vnmos_p)
Vtail Vx net5 0
.save i(vtail)
XM5 Vgs Vgs GND GND sg13_lv_nmos w=17.95u l=0.5u ng=6
Vpmos_n net4 net2 0
.save i(vpmos_n)
Vnmos_n net2 OUTn 0
.save i(vnmos_n)
x1 net2 net3 ihp_4nh_inductor
XC1 net2 net3 GND cap_rfcmim w=22.15e-6 l=22.15e-6 wfeed=10.0e-6
XC3 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
XC2 OUTp VCTRL OUTn GND sg13_hv_svaricap w=9.74u l=0.8u Nx=7
Vbias Ibias Vgs 0
.save i(vbias)
.ends

.GLOBAL GND
.GLOBAL VDD
.end
